US05998433
c) Synthesis of N,N-dimethyl-[7-(6-phenylhexyl)-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepin-2-ylmethyl]amine dihydro-chloride
N,N-Dimethyl-[7-(6-phenylhexyl)-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepin-2-ylmethyl]amine 0.739 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated to yield the desired product.

reactant | N,N-Dimethyl-[7-(6-phenylhexyl)-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepin-2-ylmethyl]amine | 0.739 g | CN(C)CC1=CC2=C(CN(CCC2)CCCCCCC2=CC=CC=C2)O1 | C23H34N2O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N,N-dimethyl-[7-(6-phenylhexyl)-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepin-2-ylmethyl]amine dihydro-chloride | Cl.Cl.CN(C)CC1=CC2=C(CN(CCC2)CCCCCCC2=CC=CC=C2)O1 | InChI=1S/C23H34N2O.2ClH/c1-24(2)18-22-17-21-14-10-16-25(19-23(21)26-22)15-9-4-3-6-11-20-12-7-5-8-13-20;;/h5,7-8,12-13,17H,3-4,6,9-11,14-16,18-19H2,1-2H3;2*1H
